data/oMe_Silver.jsonl
{"reaction_id": "NR-054_1-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_2-C(C)(C)C_3-C","name": "Dakin-West Reaction","level": "medium","reactants_smiles": ["[CH](CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(C)(C)C)C(=O)O","C(C)C(=O)OC(=O)C(C)"],"products_smiles": ["C(C)C(=O)[CH](CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(C)(C)C)"],"conditions": "CCN(CC)CC","mechnism_text_description": "Triethylamine deprotonates isobutyric acid to form the isobutyrate anion. The isobutyrate anion then attacks propanoic anhydride in a nucleophilic addition, yielding a tetrahedral intermediate. This intermediate collapses, eliminating propanoate anion and forming a mixed anhydride (isobutyric propanoic anhydride). Triethylamine then deprotonates the alpha-carbon of the isobutyric acid portion of the mixed anhydride, generating an O-enolate. This O-enolate undergoes a [3,3]-sigmatropic rearrangement to form a beta-keto carboxylate anion. The beta-keto carboxylate anion then undergoes rapid decarboxylation (heterolytic cleavage losing CO2) to yield the enolate of the final ketone product (3-methyl-2-pentanone enolate). Finally, this ketone enolate is protonated by the triethylammonium ion (formed in the deprotonation steps) to yield 3-methyl-2-pentanone.","mechanism_step_nums": 10,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[CH](CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(C)(C)C)C(=O)[O-]","step_weight": 0,"rationale": "Triethylamine, a strong non-nucleophilic base, abstracts the acidic proton from the carboxylic acid due to resonance stabilization of the resulting carboxylate anion."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[CH](CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(C)(C)C)C(=O)OC([O-])(C(C))OC(=O)C(C)","step_weight": 0,"rationale": "The nucleophilic carboxylate oxygen attacks the electrophilic carbonyl carbon of the anhydride, favored by the strong polarization of the C=O bond and minimal steric hindrance."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[CH](CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(C)(C)C)C(=O)OC(=O)C(C)","step_weight": 0,"rationale": "The tetrahedral intermediate collapses, expelling a propanoate anion, a good leaving group stabilized by resonance."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(C)(C)C)=C([O-])OC(=O)C(C)","step_weight": 0,"rationale": "The α-proton adjacent to the carbonyl in the mixed anhydride is acidic due to resonance stabilization of the resulting enolate by both carbonyl groups; triethylamine abstracts it."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C)C(OC(=O)C(C))([O-])C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(C)(C)C)C(=O)OC(=O)C(C)","step_weight": 0,"rationale": "The O-enolate undergoes nucleophilic attack in a concerted [3,3]-sigmatropic rearrangement, driven by the formation of a more stable β-keto acid framework."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C)C(=O)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(C)(C)C)C(=O)OC(=O)C(C)","step_weight": 0,"rationale": "Rearrangement leads to elimination of the leaving group, facilitated by resonance stabilization of the departing anion and relief of steric strain."},{"step": 7,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C)C(=O)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(C)(C)C)C(=O)OC([O-])(OC(=O)C(C))C(C)","step_weight": 0,"rationale": "Nucleophilic attack by the enolate oxygen on the adjacent carbonyl facilitates intramolecular rearrangement, favored by proximity and stabilization of the transition state."},{"step": 8,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C)C(=O)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(C)(C)C)C(=O)[O-]","step_weight": 0,"rationale": "Collapse of the intermediate expels a leaving group, driven by the formation of a stabilized β-keto carboxylate anion."},{"step": 9,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "C(C)C([O-])=C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(C)(C)C)","step_weight": 0,"rationale": "The β-keto carboxylate undergoes decarboxylation because CO2 loss is entropically favorable and the resulting enolate is resonance-stabilized."},{"step": 10,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)C(=O)[CH](CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(C)(C)C)","step_weight": 0,"rationale": "The enolate is protonated by the triethylammonium ion, regenerating the base and yielding the neutral ketone product."}],"description": "In the Dakin–West reaction, triethylamine deprotonates the carboxylic acid to form a carboxylate, which reacts with an acid anhydride to form a mixed anhydride. Base-induced enolate formation triggers a rearrangement to a β-keto acid intermediate, which decarboxylates to give the ketone product after protonation."}
